US09403801B2
1-(8-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)prop-2-en-1-one
To a suspension of N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine (0.10 g, 0.29 mmol) in DCM (10.0 mL) were added acrylic acid (21 mg, 0.29 mmol), HATU (0.13 g, 0.35 mmol) and Et3N (59 mg, 0.59 mmol). The mixture was stirred at rt for 1.5 h, and then diluted with DCM (30 mL), washed with brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by preparative-TLC (DCM/MeOH (v/v)=20/1) to give the title compound as a light yellow solid (27 mg, 21%).

reactant | N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine | 0.29 mmol, 0.10 g | CN(C1=NC(=NC=C1)NC=1C=NN(C1)C)C1CNCC12CCCC2 | C17H25N7
reactant | acrylic acid | 0.29 mmol, 21 mg | C(C=C)(=O)O | C3H4O2
reactant | HATU | 0.35 mmol, 0.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.59 mmol, 59 mg | CCN(CC)CC | C6H15N
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(8-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)prop-2-en-1-one | 27 mg, 21% | CN(C1CCC2(CCN(C2)C(C=C)=O)CC1)C1=NC(=NC=C1)NC=1C=NN(C1)C | C21H29N7O
